US04287341
i. Methyl-3,4-dimethoxyanthranilate
Hydrogen chloride was passed into a solution of 3,4-dimethoxyanthranilic acid (100 g., 0.51 mole) in 1.5 liters methanol for 40 minutes. The reaction mixture was refluxed for 4 days while introducing hydrogen chloride gas intermittently. The solvent was removed in vacuo, and the residual white solid was dissolved in 500 ml. water, cooled and basified to pH 10 with sodium hydroxide solution. After cooling for an additional hour, the cream color product (87.0 g., 82% yield) was filtered. Recrystallization from methanol furnished pure product, M.P. 66°-67° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | 3,4-dimethoxyanthranilic acid | 0.51 mole, 100 g | COC1=C(C(C(=O)O)=CC=C1OC)N | C9H11NO4
reactant | methanol | 1.5 liters | CO | CH4O
product | Methyl-3,4-dimethoxyanthranilate | 82% yield | COC(C=1C(N)=C(C(=CC1)OC)OC)=O | C10H13NO4
